US06365602B1
A mixture of pyridinium hydrobromide (20.76 g) and 4-[4-methoxy-2-methylthiophenyl]piperidine (6.16 g) was heated at 225° C. for 18 h. The reaction mixture was cooled, dissolved in 200 mL H2O, adjusted to pH 7 with 1N KOH, and extracted with hexane (4×50 mL). The aqueous layer was concentrated under reduced pressure to give an oil which was dissolved in 200 mL EtOH and stirred for 0.5 h. The precipitate was filtered and washed with EtOH (2×40 mL). The filtrate and all washes were combined and concentrated under reduced pressure. The crude product was purified by chromatography (9:1 DCM:MeOH) to give 6.06 g of 4-[4-hydroxy-2-methylthiophenyl]piperidine as the hydrobromide salt. 1H NMR (DMSO d6) δ 9.44 (s, 1H), 8.49 (m, 2H), 6.97 (d, 1H), 6.66 (d, 1H), 6.58 (dd, 1H), 3.43-3.30 (dm, 2H), 3.13-2.95 (m, 3H), 2.42 (s, 3H), 1.91-1.61 (m, 4H); MS m/z 225 (M+H).

reactant | pyridinium hydrobromide | 20.76 g | Br.[NH+]1=CC=CC=C1
reactant | 4-[4-methoxy-2-methylthiophenyl]piperidine | 6.16 g | COC1=CC(=C(C=C1)C1CCNCC1)SC | C13H19NOS
reactant | KOH | 1N | [OH-].[K+]
solvent | H2O | 200 mL | O | H2O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 4-[4-hydroxy-2-methylthiophenyl]piperidine | 6.06 g | OC1=CC(=C(C=C1)C1CCNCC1)SC | C12H17NOS
